US07858796B2
(20) 3-{1-[(2-hydroxyethyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide
The mixture of 3-[1-(ethenylsulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide (26 mg, 0.063 mmol) and aqueous 6M NaOH (0.2 mL) in DMSO was heated to 80° C. overnight. After which time the reaction mixture was filtered and purified by reverse phase HPLC (water/CH3CN, 0.1% TFA 3-70%) to give the title compound (16 mg, 59%).

reactant | 3-[1-(ethenylsulfonyl)-4-piperidinyl]-5-phenyl-1H-indole-7-carboxamide | 0.063 mmol, 26 mg | C(=C)S(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C22H23N3O3S
reactant | NaOH | 6M, 0.2 mL | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
product | 3-{1-[(2-hydroxyethyl)sulfonyl]-4-piperidinyl}-5-phenyl-1H-indole-7-carboxamide | 16 mg, 59% | OCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=CC=C1)C(=O)N | C22H25N3O4S
